US04623650
3-(2-Fluorophenyl)-toluene
A 1.46M solution (45 ml) of toluylmagnesium bromide in ether was added to a mixture of 10 g 2-bromofluorobenzene and 250 mg bis(diphenylphosphinoethane)-nickel dichloride in 70 ml dry diethyl ether. The mixture was then heated at reflux for 18 hours. The mixture was cooled to room temperature and quenched with 10% aqueous ammonium chloride, followed by 1M hydrochloric acid, and then partitioned between ether and water. The aqueous phase was extracted once more with ether and the combined organic extracts were dried and evaporated yielding the crude product as an oil which was purified by elution from silica gel with hexanes. The product was a colorless oil (7.0 g, 66% yield) which was used without further purification. NMR (CDCl3, 60MHz): 7.4-6.9 (m, 8H), 2.4 (s, 3H).

reactant | toluylmagnesium bromide | C1(=C(C=CC=C1)[Mg]Br)C
reactant | 2-bromofluorobenzene | 10 g | BrC1=C(C=CC=C1)F | C6H4BrF
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 3-(2-Fluorophenyl)-toluene | FC1=C(C=CC=C1)C=1C=C(C=CC1)C | C13H11F
